US07786044B2
19. Preparation of 6-Amino-2-(4-chloro-2,3-difluorophenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester (Compound 11)
6-Amino-2-chloro-5-vinylpyrimidine-4-carboxylic acid methyl ester (0.6 g, 2.81 mmol), 2-(4-chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1.0 g, 3.65 mmol), bis(triphenylphosphine)-palladium(II) dichloride (197 mg, 0.28 mmol), and cesium fluoride (0.85 g, 5.6 mmol) were combined in 10 mL of 1,2-dimethoxyethane (DME) and 10 mL of water. The reaction mixture was heated in a CEM microwave reactor at 100° C. for 15 min (other temperature/time pairs used in the subsequent examples were 110° C. for 15 min; 150° C. for 5 min). The cooled reaction mixture was diluted with ethyl acetate, washed with water, dried and concentrated. The product was purified by flash chromatography on silica gel (ethyl acetate/hexane gradient) to yield the title compound (0.336 g, 36.7% yield) as a yellow solid (mp 130-132° C.); 1H NMR (CDCl3) δ 7.74 (m, 1H), 7.22 (m, 1H), 6.8 (dd, 1H), 5.62-5.7 (m, 2H), 5.67 (m, 1H), 5.42 (br s, 2H), 3.94 (s, 3H).

reactant | 6-Amino-2-chloro-5-vinylpyrimidine-4-carboxylic acid methyl ester | 2.81 mmol, 0.6 g | COC(=O)C1=NC(=NC(=C1C=C)N)Cl | C8H8ClN3O2
reactant | 2-(4-chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 3.65 mmol, 1.0 g | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)F | C12H14BClF2O2
reactant | cesium fluoride | 5.6 mmol, 0.85 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | 0.28 mmol, 197 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Amino-2-(4-chloro-2,3-difluorophenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester | 0.336 g, 36.7% yield | COC(=O)C1=NC(=NC(=C1C=C)N)C1=C(C(=C(C=C1)Cl)F)F | C14H10ClF2N3O2
